US07678798B2
tert-Butyl 4-{(3S)-4-[3-Hydroxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate
To a solution of tert-butyl 4-methyl-4-{3-methyl-4-[3-oxo-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazin-1-yl}piperidine-1-carboxylate (100 mg, 0.202 mmol) in ethanol (7 mL) was added sodium borohydride (57 mg, 1.5 mmol). The reaction mixture was stirred at room temperature for 2 h. The solvent was evaporated in vacuo, and the residue was quenched with 10 mL of 1 N aqueous NaOH solution and 10 mL of EtOAc. The organic phase was separated and the aqueous layer was extracted with EtOAc twice (2×15 mL). The combined extracts were washed with brine, dried over Na2SO4 and evaporated under reduced pressure to give the desired product which was directly used for the next step (93 mg, 92%). LC-MS [M+1]=498.4.

reactant | tert-butyl 4-methyl-4-{3-methyl-4-[3-oxo-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]piperazin-1-yl}piperidine-1-carboxylate | 0.202 mmol, 100 mg | CC1(CCN(CC1)C(=O)OC(C)(C)C)N1CC(N(CC1)C1CC(C2=CC(=CC=C12)C(F)(F)F)=O)C | C26H36F3N3O3
reactant | sodium borohydride | 1.5 mmol, 57 mg | [BH4-].[Na+]
solvent | ethanol | 7 mL | C(C)O | C2H6O
product | tert-Butyl 4-{(3S)-4-[3-Hydroxy-5-(trifluoromethyl)-2,3-dihydro-1H-inden-1-yl]-3-methylpiperazin-1-yl}-4-methylpiperidine-1-carboxylate | OC1CC(C2=CC=C(C=C12)C(F)(F)F)N1[C@H](CN(CC1)C1(CCN(CC1)C(=O)OC(C)(C)C)C)C | C26H38F3N3O3
